US05338740
I. 2-[5-(2-Butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl]-benzoic acid methyl ester
A mixture of 2-butyl-3-(6-tributylstannanyl-naphthalen-1-yl)-3H-imidazo[4,5-b]-pyridine (120 mg, 0.22 mmol), methyl 2-iodobenzoate (79 mg, 0.3 mmol) and PdCl2 (PPh3)2 (15 mg, 0.02 mmol) in 1.0 mL DMF was heated at 105° C. for 20 hours. The cooled reaction mixture was poured into H2O (20 mL). The aqueous solution was extracted with EtOAc (3×50 mL). The combined extracts were washed with saturated aqueous NaHCO3 (25 mL), dried MgSO4) and concentrated in vacuo. The residue was chromatographed on SiO2 -gel using a gradient of 20% ethyl acetate/hexanes to 100% ethyl acetate to give 40 mg of product. 1H NMR (250 MHz, CDCl3): d 8.27 (dd, 1H, J=1.15, 4.85 Hz), 8.14 (dd, 1H, J=1.21, 7.96 Hz), 8.08 (d, 1H, J=8.2 Hz), 7.94 (d, 1H, J=1.4 Hz), 7.89 (d, 1H, J=7.9 Hz), 7.69 (t, 1 H), 7.58 (m), 7.48 (m), 7.26 (m), 7.14 (d, 1H, J=8.5 Hz), 3.57 (s, 3 H), 2.72 (t, 2 H), 1.78 (m, 2 H), 1.27 (m, 2 H), 0.83 (t, 3 H).

reactant | 2-butyl-3-(6-tributylstannanyl-naphthalen-1-yl)-3H-imidazo[4,5-b]-pyridine | 0.22 mmol, 120 mg | C(CCC)C1=NC=2C(=NC=CC2)N1C1=CC=CC2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 2-iodobenzoate | 0.3 mmol, 79 mg | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | H2O | 20 mL | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 2-[5-(2-Butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl]-benzoic acid methyl ester | 40 mg | COC(C1=C(C=CC=C1)C1=CC2=CC=CC(=C2C=C1)N1C(=NC=2C1=NC=CC2)CCCC)=O | C28H25N3O2
